data/polar.json
{"reaction_name": "Iminium-enamine rearrangement", "rsmi": "[CH2:7]1[CH2:8][CH2:11][N:12]([H:13])[CH2:10]1.[H:1][C:9]([H:2])([H:3])[C:5]([CH3:4])=[O:6]>>[H:1][O:6][H:13].[H:2][C:9]([H:3])=[C:5]([CH3:4])[N:12]1[CH2:10][CH2:7][CH2:8][CH2:11]1", "epd": [["LP-/Sigma+", [12], [5, 12]], ["Sigma-/LP+", [5, 6], [6]], ["LP-/Sigma+", [6], [6, 13]], ["Sigma-/LP+", [12, 13], [12]], ["Pi-/Pi+", [5, 6], [5, 9]], ["Sigma-/Sigma+", [1, 9], [1, 6]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:3]([CH:15]1[N+:20](=[CH:7][CH:34]=[CH:16][c:28]2[cH:8][cH:21][cH:6][cH:22][cH:9]2)[CH:19]([CH2:35][c:32]2[cH:38][cH:17][cH:23][cH:18][cH:39]2)[C:27](=[O:10])[N:33]1[CH3:26])([CH3:29])([CH3:30])[CH3:31].[CH3:1][CH2:24][O:36][C:12](=[O:5])[C-:14]([F:11])[C:13](=[O:4])[O:37][CH2:25][CH3:2]>>[CH3:1][CH2:24][O:36][C:12](=[O:5])[C:14]([F:11])([C:13](=[O:4])[O:37][CH2:25][CH3:2])[CH:16]([c:28]1[cH:8][cH:21][cH:6][cH:22][cH:9]1)[CH:34]=[CH:7][N:20]1[CH:15]([C:3]([CH3:29])([CH3:30])[CH3:31])[N:33]([CH3:26])[C:27](=[O:10])[CH:19]1[CH2:35][c:32]1[cH:38][cH:17][cH:23][cH:18][cH:39]1", "epd": [["LP-/Sigma+", [14], [14, 16]], ["Pi-/Pi+", [16, 34], [34, 7]], ["Pi-/LP+", [7, 20], [20]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:2]([CH:10]1[N+:18](=[CH:4][CH:32]=[CH:11][c:25]2[cH:5][cH:19][cH:3][cH:20][cH:6]2)[CH:15]([CH2:33][c:30]2[cH:34][cH:13][cH:21][cH:14][cH:35]2)[C:23](=[O:7])[N:31]1[CH3:22])([CH3:26])([CH3:27])[CH3:28].[CH:1]1=[CH:8][c:9]2[cH:17][cH:16][cH:36][cH:12][c:24]2[CH:37]1[Na:29]>>[CH:1]1=[CH:8][c:9]2[cH:17][cH:16][cH:36][cH:12][c:24]2[CH:37]1[CH:11]([c:25]1[cH:5][cH:19][cH:3][cH:20][cH:6]1)[CH:32]=[CH:4][N:18]1[CH:10]([C:2]([CH3:26])([CH3:27])[CH3:28])[N:31]([CH3:22])[C:23](=[O:7])[CH:15]1[CH2:33][c:30]1[cH:34][cH:13][cH:21][cH:14][cH:35]1.[Na+:29]", "epd": [["Sigma-/Sigma+", [37, 29], [37, 11]], ["Pi-/Pi+", [11, 32], [32, 4]], ["Pi-/LP+", [4, 18], [18]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[cH:1]1[cH:3][cH:13][cH:5][c:7]2[c:4]1[N+:18]([CH3:9])=[CH:12][C:11]2=[CH:8][c:17]1[cH:15][cH:19][cH:21][cH:20][cH:16]1.[n:2]1[cH:14][nH:6][cH:10][cH:22]1>>[cH:1]1[cH:3][cH:13][cH:5][c:7]2[c:4]1[n:18]([CH3:9])[cH:12][c:11]2[CH:8]([n:2]1[cH:14][nH+:6][cH:10][cH:22]1)[c:17]1[cH:15][cH:19][cH:21][cH:20][cH:16]1", "epd": [["LP-/Pi+", [6], [14, 6]], ["Pi-/Sigma+", [2, 14], [2, 8]], ["Pi-/Pi+", [8, 11], [11, 12]], ["Pi-/LP+", [12, 18], [18]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O:1]=[S:6](=[O:2])([C:8]([F:24])([F:25])[F:26])[c:21]1[cH:17][c:7]2[n+:12]([O-:3])[o:23][n:14][c:29]2[c:20]([N+:15]([O-:13])=[O:18])[cH:22]1.[cH:4]1[cH:9][c:10]2[c:28]([cH:16][cH:30]1)[CH:27]=[CH:5][CH:19]2[Li:11]>>[Li+:11].[O:1]=[S:6](=[O:2])([C:8]([F:24])([F:25])[F:26])[C:21]1=[CH:22][C:20](=[N+:15]([O-:13])[O-:18])[c:29]2[c:7]([n+:12]([O-:3])[o:23][n:14]2)[CH:17]1[CH:19]1[CH:5]=[CH:27][c:28]2[c:10]1[cH:9][cH:4][cH:30][cH:16]2", "epd": [["Sigma-/Sigma+", [19, 11], [19, 17]], ["Pi-/Pi+", [17, 21], [21, 22]], ["Pi-/Pi+", [22, 20], [20, 15]], ["Pi-/LP+", [15, 18], [18]]]}
{"reaction_name": "Iodoetherification", "rsmi": "[CH2:3]([CH2:4][OH:7])[CH:5]=[CH2:6].[I:1][I:2]>>[I-:2].[I:1][CH2:6][CH:5]1[CH2:3][CH2:4][OH+:7]1", "epd": [["Pi-/Sigma+", [5, 6], [1, 6]], ["Sigma-/LP+", [1, 2], [2]], ["LP-/Sigma+", [7], [5, 7]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O:3]=[S:32](=[O:4])([c:17]1[cH:6][cH:13][c:21]([CH3:34])[cH:14][cH:7]1)[n:23]1[cH:16][c:19]([N+:18](=[O:8])[O-:11])[c:20]2[cH:12][cH:25][c:15]([N+:29](=[O:26])[O-:28])[cH:5][c:24]21.[cH:1]1[c:30]2[cH:27][cH:10][cH:2][cH:22][c:33]2[cH-:9][cH:31]1>>[CH:1]1=[CH:31][CH:9]([CH:16]2[C:19](=[N+:18]([O-:8])[O-:11])[c:20]3[cH:12][cH:25][c:15]([N+:29](=[O:26])[O-:28])[cH:5][c:24]3[N:23]2[S:32](=[O:3])(=[O:4])[c:17]2[cH:6][cH:13][c:21]([CH3:34])[cH:14][cH:7]2)[c:33]2[cH:22][cH:2][cH:10][cH:27][c:30]21", "epd": [["LP-/Sigma+", [9], [9, 16]], ["Pi-/Pi+", [16, 19], [19, 18]], ["Pi-/LP+", [18, 8], [8]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[cH:1]1[cH:2][cH:24][cH:9][c:13]2[c:5]1[N+:30]([CH3:16])=[CH:23][C:17]2=[CH:15][c:28]1[cH:26][cH:31][cH:42][cH:32][cH:27]1.[cH:3]1[cH:6][c:38]([B-:39]2([c:14]3[s:22][c:12]([CH3:29])[cH:18][cH:33]3)[O:10][c:40]3[cH:35][cH:37][cH:36][cH:34][c:41]3[O:11]2)[cH:7][cH:4][c:8]1[C:25]([F:19])([F:20])[F:21]>>[cH:1]1[cH:2][cH:24][cH:9][c:13]2[c:5]1[n:30]([CH3:16])[cH:23][c:17]2[CH:15]([c:14]1[s:22][c:12]([CH3:29])[cH:18][cH:33]1)[c:28]1[cH:26][cH:31][cH:42][cH:32][cH:27]1.[cH:3]1[cH:6][c:38](-[b-:39]2[o+:10][c:40]3[cH:35][cH:37][cH:36][cH:34][c:41]3[o:11]2)[cH:7][cH:4][c:8]1[C:25]([F:19])([F:20])[F:21]", "epd": [["LP-/Pi+", [10], [39, 10]], ["Sigma-/Sigma+", [14, 39], [14, 15]], ["Pi-/Pi+", [15, 17], [17, 23]], ["Pi-/LP+", [23, 30], [30]]]}
